US07144899B2
Step D: tert-Butyl 1-[(3-chlorophenyl)(hydroxy)pyridin-3-ylacetyl]-L-prolinate
tert-Butyl 1-[(3-chlorophenyl)(oxo)acetyl]-L-prolinate (2.2 g, 6.46 mmol) was dissolved in THF (10 mL) and cooled to −78° C. under a nitrogen atmosphere (Vessel A). In a separate vessel containing 3-bromopyridine (0.68 mL, 7.1 mmol) in ethyl ether (50 mL) cooled to −78° C. was added n-BuLi (2.5M in hexanes, 3.1 mL, 7.7 mmol) and the mixture was stirred for one hour (Vessel B). The contents of Vessel B were added to Vessel A via cannula at −78° C. The temperature was increased to 0° C. and the mixture stirred for 2.5 hours. The mixture was then quenched with saturated ammonium chloride solution (40 mL) and extracted with EtOAc. The EtOAc was evaporated in vacuo, and the residue dried and purified on silica gel using a 1:1 then 2:1 mixture of EtOAc to hexane as mobile phase. Pooled fractions were dried to yield: Nonpolar isomer of tert-butyl 1-[(3-chlorophenyl)(hydroxy)pyridin-3-ylacetyl]-L-prolinate (0.43 g, HPLC RT=3.01 min, Method A; LCMS m/z=417). Polar isomer of ten-butyl 1-[(3-chlorophenyl)(hydroxy)pyridin-3-ylacetyl]-L-prolinate (0.12 g, HPLC RT=2.96 min, Method A; LCMS m/z=417).

reactant | tert-Butyl 1-[(3-chlorophenyl)(oxo)acetyl]-L-prolinate | 6.46 mmol, 2.2 g | ClC=1C=C(C=CC1)C(C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)=O | C17H20ClNO4
reactant | 3-bromopyridine | 7.1 mmol, 0.68 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-BuLi | 7.7 mmol, 2.5M, 3.1 mL | [Li]CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl ether | 50 mL | C(C)OCC | C4H10O
product | tert-Butyl 1-[(3-chlorophenyl)(hydroxy)pyridin-3-ylacetyl]-L-prolinate | ClC=1C=C(C=CC1)C(C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)(C=1C=NC=CC1)O | C22H25ClN2O4
